US05212178
N-(2-methyl-6-n-propyl-8alpha-ergolinyl)-2-hydroxyacetamide
530 mg of N-(2-methyl6n-propyl-8alpha-ergolinyl)-acetoxyacetamide (1.38 mmol) is dissolved in 20 ml of methanol and 0.5 ml of KOH and stirred for 15 minutes at room temperature. Then it is mixed with ice and shaken out with dichloromethane. The organic phases are dried, concentrated by evaporation and crystallized from diisopropyl ether/hexane, yield 321 mg (63% of theory). [α]D +20° (0.5% in chloroform).

reactant | N-(2-methyl6n-propyl-8alpha-ergolinyl)-acetoxyacetamide | 1.38 mmol, 530 mg | CC1=C2C[C@H]3N(C[C@H](C[C@@H]3C=3C=CC=C(N1)C32)NC(COC(C)=O)=O)CCC | C22H29N3O3
reactant | KOH | 0.5 ml | [OH-].[K+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 20 ml | CO | CH4O
product | N-(2-methyl-6-n-propyl-8alpha-ergolinyl)-2-hydroxyacetamide | CC1=C2C[C@H]3N(C[C@H](C[C@@H]3C=3C=CC=C(N1)C32)NC(CO)=O)CCC | C20H27N3O2
